US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, (0.338 g, 1.23 mmol) was reacted with 2-azidoethanamine (0.106 g, 1.23 mmol) and triethylamine (0.249 g, 2.46 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)palmitamide (0.336 g, 84%). 1H NMR (300 MHz, CDCl3) δ 6.11 (s, 1H), δ 3.41 (s, 4H), δ 2.17 (t, 2H), δ 1.60 (m, 2H), δ 1.23 (m, 24H), δ 0.85 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 173.9, 51.1, 39.1, 36.9, 32.1, 29.9, 29.8, 29.8, 29.7, 29.6, 29.5, 25.9, 22.9, 14.3 ppm; HRMS (ESI) calcd for C18H36N4O (M+) 324.2889. found 324.2879.

reactant | N-(2-azidoethyl)tetradecanamide | 1.23 mmol, 0.338 g | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 2-azidoethanamine | 1.23 mmol, 0.106 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.46 mmol, 0.249 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)palmitamide | 0.336 g, 84% | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCCCC)=O | C18H36N4O
